US05459137
1-[4-(N,N-diethylglycylamino)phenyl]-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine
It was prepared from 1-(4-chloroacetylaminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine by using the process of Example 102, except that diethylamine was used instead of pyrrolidine, m.p.: 157°-158° C.

reactant | 1-(4-chloroacetylaminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | ClCC(=O)NC1=CC=C(C=C1)C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C | C19H16ClN3O3
reactant | diethylamine | C(C)NCC | C4H11N
product | 1-[4-(N,N-diethylglycylamino)phenyl]-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | C(C)N(CC(=O)NC1=CC=C(C=C1)C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C)CC | C23H26N4O3
